US03956343
Preparation of 3-(5-vinyl-3-isoxazolyl)pyridine
Five ml. of concentrated sulfuric acid was cooled to 0°C. in an ice bath and added directly to 0.5 g. of 3-(3-pyridyl)-5-isoxazoleethanol. The reaction was allowed to stir 1/2 hour at 0°C. and then was poured over 50 g. of ice. The resulting solution was made basic with 5N NaOH, and was extracted with CHCl3. The organic layer was dried over sodium sulfate. Removal of the solvent resulted in a white oil which crystallized on standing, m.p. 60°-64°C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3-(3-pyridyl)-5-isoxazoleethanol | N1=CC(=CC=C1)C1=NOC(=C1)CCO | C10H10N2O2
reactant | NaOH | 5N | [OH-].[Na+]
product | 3-(5-vinyl-3-isoxazolyl)pyridine | C(=C)C1=CC(=NO1)C=1C=NC=CC1 | C10H8N2O
